datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)(C)[NH+:21](c1ccccc1)[H:20].CCOCC[NH:10]c1cccc(OC)c1>>CC(C)(C)[NH:21]c1ccccc1.CCOCC[NH+:10](c1cccc(OC)c1)[H:20] 10=20;20,21=21",
"N#CC(C#N)=N[N:21](c1cccc(Cl)c1)[H:20].c1ccc2c(N[NH2:10])nncc2c1>>N#CC(C#N)=N[N-:21]c1cccc(Cl)c1.c1ccc2c(N[NH2+:10][H:20])nncc2c1 10=20;20,21=21",
"CCC(=O)OC(C)C[N:10](C)C.CCC[NH+:21](CC[S-])[H:20]>>CCC(=O)OC(C)C[N+:10](C)(C)[H:20].CCC[NH:21]CC[S-] 10=20;20,21=21",
"O=C(O[C@H]1O[C@@H](C(=O)[O:21][H:20])[C@H](O)[C@@H](O)[C@@H]1O)c1ccccc1.c1coc(-c2ccc[n:10]c2)c1>>O=C(O[C@H]1O[C@@H](C(=O)[O-:21])[C@H](O)[C@@H](O)[C@@H]1O)c1ccccc1.c1coc(-c2ccc[n+:10]([H:20])c2)c1 10=20;20,21=21",
"CSc1cc2ccccc2[n+:21]([H:20])c1.Cc1[nH]cnc1CSCCNC(=[NH2+])NCCCc1c[nH]c[n:10]1>>CSc1cc2ccccc2[n:21]c1.Cc1[nH]cnc1CSCCNC(=[NH2+])NCCCc1c[nH]c[n+:10]1[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(C(=O)[O-])[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"C[NH+](C)c1ccc([N:10](C)C)cc1.Cc1cc(C(=O)[O:21][H:20])ccc1[N+](=O)[O-]>>C[NH+](C)c1ccc([N+:10](C)(C)[H:20])cc1.Cc1cc(C(=O)[O-:21])ccc1[N+](=O)[O-] 10=20;20,21=21",
"N[NH+:21](CCOc1ccccc1)[H:20].Nc1cc[n+]([O-:10])cc1>>N[NH:21]CCOc1ccccc1.Nc1cc[n+]([O:10][H:20])cc1 10=20;20,21=21",
"CS[C@H]1CCC[C@@H]1[N+:21](C)(C)[H:20].Cc1ccc(C(=O)/C=C/C(=O)[O-:10])cc1>>CS[C@H]1CCC[C@@H]1[N:21](C)C.Cc1ccc(C(=O)/C=C/C(=O)[O:10][H:20])cc1 10=20;20,21=21",
"OCCCCCc1ccc[n+:21]([H:20])c1.[O-]c1c(Cl)cc(Cl)cc1C[N:10]1CCCCC1>>OCCCCCc1ccc[n:21]c1.[O-]c1c(Cl)cc(Cl)cc1C[N+:10]1([H:20])CCCCC1 10=20;20,21=21",
"O=C(Nc1ccccc1)O[N:21](C(=O)c1ccccc1)[H:20].c1cc[n:10]cc1>>O=C(Nc1ccccc1)O[N-:21]C(=O)c1ccccc1.c1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"COC(=O)CSC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])C=C1>>COC(=O)CSC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"CCc1c(O)n(C)[n+:21]([H:20])c1C.Cc1ccc(CC[NH2:10])cc1>>CCc1c(O)n(C)[n:21]c1C.Cc1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"Cc1cccc2ccc([O-:10])cc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cccc2ccc([O:10][H:20])cc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC1(C2=CCCCC2)C(=O)[N-]C(=S)[N-:10]C1=O.Nc1ccc2c(N)c3ccccc3[n+:21]([H:20])c2c1>>CCC1(C2=CCCCC2)C(=O)[N-]C(=S)[N:10]([H:20])C1=O.Nc1ccc2c(N)c3ccccc3[n:21]c2c1 10=20;20,21=21",
"CC(C)(C)OC(=O)NC(CCC(N)=O)C(=O)[O:21][H:20].O=C(c1csc(Br)c1)[O-:10]>>CC(C)(C)OC(=O)NC(CCC(N)=O)C(=O)[O-:21].O=C(c1csc(Br)c1)[O:10][H:20] 10=20;20,21=21",
"O=C(CCC[N+:21]1([H:20])CCC(O)(c2ccccc2)CC1)c1ccccc1.O=C([O-])Cc1ccc([NH2:10])cc1>>O=C(CCC[N:21]1CCC(O)(c2ccccc2)CC1)c1ccccc1.O=C([O-])Cc1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"NCCCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NCCCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCCc1ccccc1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCCc1ccccc1)[H:20] 10=20;20,21=21",
"CCCCCCCC[NH2:10].O=C(CCc1c[nH]c2ccccc12)[O:21][H:20]>>CCCCCCCC[NH2+:10][H:20].O=C(CCc1c[nH]c2ccccc12)[O-:21] 10=20;20,21=21",
"CCc1ccc(C(=O)[O-])[n+:21]([H:20])c1.O=[N+]([O-])c1cc2cc([O-:10])ccc2cc1Cl>>CCc1ccc(C(=O)[O-])[n:21]c1.O=[N+]([O-])c1cc2cc([O:10][H:20])ccc2cc1Cl 10=20;20,21=21",
"CC1CC(/C=C2\CC(C)(C)CN2)=[N+:21]([H:20])C1(C)C.CCCCCCCCCC[NH2:10]>>CC1CC(/C=C2\CC(C)(C)CN2)=[N:21]C1(C)C.CCCCCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC[NH:10]Cc1ccc(C)cc1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC[NH+:10](Cc1ccc(C)cc1)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"BrC1=C[NH+:21]([H:20])C=N1.Cc1ccc(SC2CC(=O)[N-:10]2)cc1>>BrC1=C[NH:21]C=N1.Cc1ccc(SC2CC(=O)[N:10]2[H:20])cc1 10=20;20,21=21",
"Clc1ccc(C([NH2+]c2ccccc2)[O-:10])cc1.O=C(O)c1ccc([NH2+:21][H:20])cc1>>Clc1ccc(C([NH2+]c2ccccc2)[O:10][H:20])cc1.O=C(O)c1ccc([NH2:21])cc1 10=20;20,21=21",
"CC(C)[NH:10]CCC#N.COP(=O)([O-])[N:21](S(C)(=O)=O)[H:20]>>CC(C)[NH+:10](CCC#N)[H:20].COP(=O)([O-])[N-:21]S(C)(=O)=O 10=20;20,21=21",
"C[Si](C)(C[NH2:10])c1ccccc1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[Si](C)(C[NH2+:10][H:20])c1ccccc1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"[O-][n+]1cnc(NCc2ccccc2)c2c1[nH]c[n:10]2.c1ccc(/N=N/c2ccc([O:21][H:20])cc2)cc1>>[O-][n+]1cnc(NCc2ccccc2)c2c1[nH]c[n+:10]2[H:20].c1ccc(/N=N/c2ccc([O-:21])cc2)cc1 10=20;20,21=21",
"CCCCCC(C)[NH:10]C.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCCCC(C)[NH+:10](C)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"N#Cc1ccc([NH2+:21][H:20])c2ccccc12.[O-]c1ncncc1[O-:10]>>N#Cc1ccc([NH2:21])c2ccccc12.[O-]c1ncncc1[O:10][H:20] 10=20;20,21=21",
"C[N:10]1[C@@H]2CC[C@H]1C[C@H](OC(=O)C(O)c1ccccc1)C2.[Se-]c1nccc([O:21][H:20])[nH+]1>>C[N+:10]1([H:20])[C@@H]2CC[C@H]1C[C@H](OC(=O)C(O)c1ccccc1)C2.[Se-]c1nccc([O-:21])[nH+]1 10=20;20,21=21",
"CC(=O)NCC[NH2:10].CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(=O)NCC[NH2+:10][H:20].CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
